* Schematics Netlist *



V_V7         $N_0001 0 2V
X_S2    $N_0002 $N_0001 $N_0003 0 CulerReg_S2 
V_V1         $N_0004 0 12V
C_C3         $N_0004 0  10u  
V_V8         $N_0002 0  
+PULSE 0 5 0us 5us 5us 5ms 10ms
R_R5         $N_0005 $N_0003  20  
R_R7         $N_0005 0  200  
Q_Q1         $N_0004 $N_0006 $N_0005 QBC817-16/PLP 
C_C5         $N_0006 0  10u  
V_V6         $N_0007 0  
+PULSE 0 11.5 0us 0.1us 0.1us 10us 10us
R_R1         $N_0006 $N_0007  10  

.subckt CulerReg_S2 1 2 3 4  
S_S2         3 4 1 2 Sbreak
RS_S2         1 2 1G
.ends CulerReg_S2
