* Schematics Netlist *



R_R1         $N_0001 0  2  
C_C2         $N_0001 0  1u  
R_R4         $N_0001 $N_0002  47k  
V_V2         $N_0003 0 10V
X_U1A         $N_0002 $N_0004 $N_0003 0 $N_0005 LM358
V_V1         $N_0006 0  
+SIN 0 14.1V 1000 0 0 0
R_R2         $N_0007 0  20  
X_D2         $N_0006 $N_0007 D120NQ045 
V_V4         $N_0008 0 10V
R_R3         $N_0008 $N_0004  47k  
M_M3         $N_0001 0 $N_0008 $N_0008 IRFP9140
R_R5         0 $N_0005  47k  
